US07488823B2
Step G: 4-[3-Chloro-4-(pyridin-2-ylmethoxy)-phenylamino]-7-methoxy-quinazolin-6-ol
3-Chloro-4-(pyridin-2-ylmethoxy)-phenylamine (3.9 g, 16.62 mmol) and acetic acid 4-chloro-7-methoxy-quinazolin-6-yl ester (4.62 g, 18.28 mmol) were dissolved in a 1:1 mixture of DCE:t-BuOH (50 mL). The reaction mixture was refluxed for 19 hours and then cooled to room temp. Solvent was removed via rotovap. The crude residue was then suspended in MeOH (80 mL) and NH4OH (8 mL, 30% in water) was added to the mixture. Stir for 15 hours at room temp. The reaction was heated to 100° C. and stirred for 1 hour. Cool to 0° C. and product was isolated by filtration and washed with cold MeOH to give 5 g (12.2 mmol, 67% over two steps) of desired product.

reactant | 3-Chloro-4-(pyridin-2-ylmethoxy)-phenylamine | 16.62 mmol, 3.9 g | ClC=1C=C(C=CC1OCC1=NC=CC=C1)N | C12H11ClN2O
reactant | acetic acid 4-chloro-7-methoxy-quinazolin-6-yl ester | 18.28 mmol, 4.62 g | ClC1=NC=NC2=CC(=C(C=C12)OC(C)=O)OC | C11H9ClN2O3
reactant | t-BuOH | 50 mL | CC(C)(C)O | C4H10O
solvent | DCE | ClCCCl | C2H4Cl2
product | 4-[3-Chloro-4-(pyridin-2-ylmethoxy)-phenylamino]-7-methoxy-quinazolin-6-ol | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC(=C(C=C12)O)OC | C21H17ClN4O3
